US09108966B2
A mixture of (2S,5R)-6-(benzyloxy)-2-(5-morpholino-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (0.12 g) and 10% Pd/C (70 mg) in THF (5 mL) was stirred at rt under H2 atmosphere for 1-2 hrs. The reaction mixture was then filtered and concentrated to afford (2S,5R)-6-hydroxy-2-(5-morpholino-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one (83 mg, 90%), which was used directly in the next step. ESI-MS (EI+, m/z): 296 [M+H]+.

reactant | (2S,5R)-6-(benzyloxy)-2-(5-morpholino-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 0.12 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)N2CCOCC2 | C19H23N5O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | (2S,5R)-6-hydroxy-2-(5-morpholino-1,3,4-oxadiazol-2-yl)-1,6-diaza-bicyclo[3.2.1]octan-7-one | 83 mg, 90% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C=2OC(=NN2)N2CCOCC2 | C12H17N5O4
